US07893056B2
A mixture of (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid (112 mg, 0.374 mmol), 2-chloro-5-fluoro-4-hydrazino-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]pyrimidine (assumed 112 mg of free base, 0.374 mmol), EDC (86 mg, 0.449 mmol), HOAt (56 mg, 0.411 mmol), and NMM (0.25 mL, 2.24 mmol) in DMF (5 ml) was stirred at room temperature overnight. The reaction mixture was then purified via RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (145 mg, 66%). LCMS: (M+H)+: 582.5.

reactant | (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid | 0.374 mmol, 112 mg | C1(CCCC1)C[C@@H](C(=O)O)CN(OC1OCCCC1)C=O | C15H25NO5
reactant | 2-chloro-5-fluoro-4-hydrazino-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]pyrimidine | 0.374 mmol, 112 mg | ClC1=NC(=C(C(=N1)NN)F)N1CC(C1)(N1CCCC1)C | C12H18ClFN6
reactant | EDC | 0.449 mmol, 86 mg
reactant | HOAt | 0.411 mmol, 56 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 2.24 mmol, 0.25 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 145 mg, 66% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)N1CC(C1)(N1CCCC1)C | C27H41ClFN7O4
